US04098823
A solution of 5.0 g (33.0 mmol) 2-methylspiro[3.3]heptane-2-carboxylic acid in 33.0 ml of dry ether was stirred under argon at 0° C and 47.6 ml (74.3 mmol) of 1.56 M methyl lithium in ether added dropwise. The reaction mixture was allowed to warm to 25° C and was stirred for 3.0 hr. The reaction mixture was cooled to -20° C and quenched by addition of 10% aqueous HCl. The layers were separated and the aqueous layer extracted with ether. The combined organic layers were washed with saturated aqueous sodium bicarbonate and brine, then dried (MgSO4), filtered, and evaporated in vacuo to afford 2-methyl-2-acetylspiro[3.3]heptane as a light yellow oil (4.91 g 98%).

reactant | 2-methylspiro[3.3]heptane-2-carboxylic acid | 33.0 mmol, 5.0 g | CC1(CC2(C1)CCC2)C(=O)O | C9H14O2
reactant | methyl lithium | 74.3 mmol, 1.56 M, 47.6 ml | C[Li]
solvent | ether | 33.0 ml | CCOCC | C4H10O
product | 2-methyl-2-acetylspiro[3.3]heptane | CC1(CC2(C1)CCC2)C(C)=O | C10H16O
